US05888941
A solution of ethyl ethoxymethylenecyanoacetate (3 g, 17.7 mmol) and 4-chlorophenylhydrazine hydrochloride (3.33 g, 18.6 mmol) in ethanol (60 mL) was refluxed for 2 days, following the procedure described in Schmidt, P. et al. Helv.Chim.Acta, 1959, 349. The reaction mixture was then allowed to cool to room temperature, whereupon a precipitate was formed. Cold CHCl3 was added, the precipitate was filtered and washed with more CHCl3. The filtrate and the washings were evaporated to dryness, precipitated with ether, filtered and dried to give ethyl 5-amino-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylate (2.25 g, 48%) as a white solid: mp 150°-156° C.; 1H NMR (80 MHz, CDCl3) δ (TMS) 7.77 (s, 1H, pyrazole), 7.48 (s, 4H, arom), 4.30 (q, J=7, 2H, OCH2), 1.36 (t, J=7, 3H, OCH2CH3). Analysis calculated for C12H12ClN3O2 : C 54.25; H 4.55; N 15.81. Found: C 54.77; H 4.49; N 15.65.

reactant | ethyl ethoxymethylenecyanoacetate | 17.7 mmol, 3 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | 4-chlorophenylhydrazine hydrochloride | 18.6 mmol, 3.33 g | Cl.ClC1=CC=C(C=C1)NN
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | ethyl 5-amino-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylate | 2.25 g, 48% | NC1=C(C=NN1C1=CC=C(C=C1)Cl)C(=O)OCC | C12H12ClN3O2
